US07423030B2
15.4. 4-(4-methoxyphenyl)-7-methyl-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine
This compound is obtained according to the procedure described in 1.4. by reacting 1-chloro-4-(4-methoxyphenyl)-7-methylphthalazine with 4-amino-1-(naphthalen-2-ylmethyl)piperidine.

reactant | 1-chloro-4-(4-methoxyphenyl)-7-methylphthalazine | ClC1=NN=C(C2=CC=C(C=C12)C)C1=CC=C(C=C1)OC | C16H13ClN2O
reactant | 4-amino-1-(naphthalen-2-ylmethyl)piperidine | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
product | 4-(4-methoxyphenyl)-7-methyl-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine | COC1=CC=C(C=C1)C1=NN=C(C2=CC(=CC=C12)C)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C32H32N4O
